US06734306B2
B. (3S)-3-(4-Benzyl-1-piperazinyl)-1-azabicyclo[2.2.2]octane
To a solution of 1-[(3S)-1-azabicyclo[2.2.2]oct-3-yl]-4-benzyl-2,6-piperazinedione (1.90 g, 6.00 mmol) in 1,4-dioxane (40 mL) was added LiAlH4 (911 mg, 24.0 mmol) at room temperature under nitrogen atmosphere. The resulting suspension was stirred under reflux for 3.5 h, then cooled to 0° C. The mixture was diluted with Et2O (80 mL), then treated carefully with Na2SO410 H2O (9.1 g) and anhydrous KF (1 g). After the resulting white suspension was stirred vigorously at room temperature for 30 min, the white precipitate was removed by filtration through a pad of celite. The filtrate was concentrated in vacuo and the residue was purified by column chromatography (NH gel, 200-350 mesh, 40 g, EtOAc) to give a product (1.39 g , 81%) as a white solid.

reactant | 1-[(3S)-1-azabicyclo[2.2.2]oct-3-yl]-4-benzyl-2,6-piperazinedione | 6.00 mmol, 1.90 g | N12C[C@H](C(CC1)CC2)N2C(CN(CC2=O)CC2=CC=CC=C2)=O | C18H23N3O2
reactant | LiAlH4 | 24.0 mmol, 911 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | H2O | 9.1 g | O | H2O
reactant | KF | 1 g | [F-].[K+]
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | Et2O | 80 mL | CCOCC | C4H10O
product | (3S)-3-(4-Benzyl-1-piperazinyl)-1-azabicyclo[2.2.2]octane | 1.39 g, 81% | C(C1=CC=CC=C1)N1CCN(CC1)[C@@H]1CN2CCC1CC2 | C18H27N3
